US06136807
Preparation of Isooctyl acrylate/2-Hydroxyethyl acrylate/N-vinyl-2-pyrrolidone (89/2/9) Copolymer
A flask equipped with an agitator, condenser, nitrogen inlet tube and an addition funnel was charged with isooctyl acrylate (155.75 g), N-vinyl-2-pyrrolidone (15.75 g) and hydroxyethyl acrylate (3.50 g) premixed in a mixture of ethyl acetate (249.38 g) and methanol (13.13 g). 2,2'-Azobis-(2-methyl-butyronitrile) (0.26 g, Wako™ V-59) was added to initiate reaction. The mixture was purged with nitrogen to remove oxygen. The mixture was agitated and heated to 57° C. and the reaction was run for about 24 hours at this temperature. After termination of the reaction additional ethyl acetate (178.13 g) and methanol (9.38 g) were added. The inherent viscosity was 1.27 dl/g.

reactant | isooctyl acrylate | 155.75 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | N-vinyl-2-pyrrolidone | 15.75 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | hydroxyethyl acrylate | 3.50 g | C(C=C)(=O)OCCO | C5H8O3
reactant | 2,2'-Azobis-(2-methyl-butyronitrile) | 0.26 g | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
solvent | ethyl acetate | 249.38 g | C(C)(=O)OCC | C4H8O2
solvent | methanol | 13.13 g | CO | CH4O
product | Isooctyl acrylate 2-Hydroxyethyl acrylate N-vinyl-2-pyrrolidone | C(C=C)(=O)OCCCCCC(C)C.C(C=C)(=O)OCCO.C(=C)N1C(CCC1)=O | InChI=1S/C11H20O2.C6H9NO.C5H8O3/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-2-7-5-3-4-6(7)8;1-2-5(7)8-4-3-6/h4,10H,1,5-9H2,2-3H3;2H,1,3-5H2;2,6H,1,3-4H2
